US06229011B1
An aqueous 1N lithium hydroxide solution (0.25 mL) was added to a solution of 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]sulfonyl]phenyl]carbonyl]-L-phenylalanine methyl ester (51 mg; 0.0738 mmol) in methanol (0.5 mL) and tetrahydrofuran (0.35 mL). After the reaction was stirred at room temperature for 90 minutes, the solvents were removed under reduced pressure. The crude product in the minimum amount of methanol was then applied to a column of silica eel (5 g) made up in a mixture of chloroform, methanol, acetic acid and water (15:3:1:0.6). The column was eluted with the same solvent mixture and the appropriate fractions were combined and evaporated. The residue was lyophilized from deionized water to give 36 mg of 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]sulfonyl]phenyl]carbonyl]-L-phenylalanine as an off white solid. FAB HRMS: (C30H24Cl3N3O7S) Obs. Mass 676.0482 Calcd. Mass 676.0479 (M+H).

reactant | lithium hydroxide | 1N, 0.25 mL | [OH-].[Li+]
reactant | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]sulfonyl]phenyl]carbonyl]-L-phenylalanine methyl ester | 0.0738 mmol, 51 mg | COC([C@@H](NC(=O)C1=C(C=C(C=C1)S(=O)(=O)NCC1=CC(=CC=C1)O)Cl)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C31H26Cl3N3O7S
solvent | methanol | 0.5 mL | CO | CH4O
solvent | tetrahydrofuran | 0.35 mL | O1CCCC1 | C4H8O
product | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]sulfonyl]phenyl]carbonyl]-L-phenylalanine | 36 mg | ClC1=C(C(=CC=C1)Cl)C(=O)NC1=CC=C(C[C@H](NC(=O)C2=C(C=C(C=C2)S(=O)(=O)NCC2=CC(=CC=C2)O)Cl)C(=O)O)C=C1 | C30H24Cl3N3O7S
